US07420001B2
To a solution of 0.380 g (1.64 mmol) of 3-methyl-4-ethylbenzofuran-2-carboxylicacid ethyl ester in 8 mL of methanol and 8 mL of THF was added 8.2 mL of 1N sodium hydroxide solution and the reaction was stirred for 14 h at room temperature and then acidified with 1N HCl and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo to provide 0.321 g of 3-methyl-4-ethylbenzofuran-2-carboxylic acid.

reactant | 3-methyl-4-ethylbenzofuran-2-carboxylicacid ethyl ester | 1.64 mmol, 0.380 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)CC | C14H16O3
reactant | sodium hydroxide | 1N, 8.2 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-methyl-4-ethylbenzofuran-2-carboxylic acid | 0.321 g | CC1=C(OC2=C1C(=CC=C2)CC)C(=O)O | C12H12O3
